US09163023B2
(2S)-methyl 2-(tert-butoxy)-2-(4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate
A solution of (S)-methyl 2-hydroxy-2-(4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate (9.6 g, 26.7 mmol) in tert-butyl acetate (349 ml, 2583 mmol) was treated dropwise with HClO4 (12.37 ml, 144 mmol). After 1 h, the reaction mixture was poured into 2M Na2CO3 and the layers partitioned. The organic phase was washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by ISCO (0-60% EtOAc-hexanes) to afford the title compound as a white foam (8.0 g, 71%). 1H NMR (CHLOROFORM-d) δ 7.13 (d, J=3.3 Hz, 1H), 6.30 (d, J=3.3 Hz, 1H), 5.75 (s, 1H), 3.84 (s, 3H), 3.67 (s, 3H), 2.73 (s, 3H), 1.25 (s, 9H). LC/MS (m/z) ES+=416.9 (M+1)+

reactant | (S)-methyl 2-hydroxy-2-(4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | 26.7 mmol, 9.6 g | O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)N(C=C2)C)I | C12H13IN2O3
reactant | tert-butyl acetate | 2583 mmol, 349 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
product | (2S)-methyl 2-(tert-butoxy)-2-(4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | 8.0 g, 71% | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)N(C=C2)C)I | C16H21IN2O3
